US05459137
1-(4-Benzoylaminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
1.0 ml (15 mmol) of benzoyl chloride and 2.1 ml (15 mmol) of triethylamine were added to a solution of 4 g (13.6 mmol) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine in dichloromethane and the reaction mixture was stirred at 25° C. for 24 hours. The solution was extracted with 3×30 ml of water, 3×20 ml of a 4% aqueous sodium hydroxide solution and finally with 2×30 ml of distilled water. The organic layer was dried, evaporated under reduced pressure, then the crystalline residue was treated with 20 ml of hot ethanol to obtain 3.97 g of raw product, m.p. 242°-243° C. This raw product was repeatedly treated with 20 ml of hot ethanol, next day it was filtered at 0°-5° C., washed with 3×3 ml of ethanol and dried at 100° C. to yield 3.85 g (71.3%) of the pure aimed product, m.p. 246°-247° C. (decomp.).

reactant | benzoyl chloride | 15 mmol, 1.0 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 13.6 mmol, 4 g | NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C17H15N3O2
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-Benzoylaminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 3.85 g, 71.3% | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C24H19N3O3
